US07705040B2
Pyrrole-2-carboxylic acid (10.0 g, 90 mmol) was dissolved. in 250 mL of dichloromethane. DCC (N,N-dicyclohexylcarbodiimide) (20.4 g, 99 mmol), DMAP (4-dimethyl-aminopyridine) (2.2 g, 18 mmol) and diethylamine (10.2 mL, 99 mmol) were added subsequently at 0° C. under an Argon atmosphere. The reaction mixture was stirred at 0° C. for 30 mins then stirred at root temperature for 8 hours. The solution was diluted with dichloromethane and the solid was filtered off. The filtrates were washed by diluted hydrochloric acid, followed by saturated sodium bicarbonate solution. The organic layer was dried over sodium sulfate and then the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/2) to obtain N,N-diethyl-1H-pyrrole-2-carboxamide as a white solid (10.5 g, 70% yield). mp 78.6-79.9° C.; 1H NMR (300 MHz, CDCl3): δ 10.1 (br, 1H), 6.94-6.88 (m, 1H), 6.57-6.51 (m, 1H), 6.26-6.21 (m, 1H), 3.95-3.86 (m, 4H), 1.31-1.24 (m, 6H); 13C NMR (75.5 Hz, CDCl3): δ 161.9, 120.7, 111.3, 110.1, 109.5, 41.9, 13.4; IR (CH2Cl2) 3442, 2981, 2937, 1716, 1600 cm−1; LRMS (EI) m/z (%) 166 (M+; 100); HRMS (EI): calcd for C9H14N2O: 166.1106, Found: 116.1106.

reactant | Pyrrole-2-carboxylic acid | 90 mmol, 10.0 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | diethylamine | 99 mmol, 10.2 mL | C(C)NCC | C4H11N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | N,N-diethyl-1H-pyrrole-2-carboxamide | 10.5 g, 70% yield | C(C)N(C(=O)C=1NC=CC1)CC | C9H14N2O
